US05399580
(±)-(1R*,2S*,3S*,5S*)-5-[2-(Benzylthio)-5,6-dichloro-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol
A mixture of (±)-(1R*,2S*,3S*,5S*)-3-(acetoxymethyl)-5-(5,6-dichloro-2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate (0.50 g, 1.05 mmol), benzyl bromide (0.3 mL, 2.5 mmol) and anhydrous potassium carbonate (0.145 g, 1.05 mequiv as 98%) in dioxane (5 mL) was stirred vigorously at ambient temperature for 2.5 days. Volatiles were evaporated in vacuo and the residue partitioned between chloroform and water. The chloroform layer was dried(sodium sulfate) and concentrated to an oil which was stirred in ammonia-methanol (40 mL of half-saturated) for 18 hours. Volatiles were evaporated and the residue solidified from 3:1 methanol-water to give title compound as a white powder (300 mg, 65%), m.p. 160°-162° C.; 1H-NMR(DMSO-d6) δ: 8.04 and 7.89 (both s, 1 each, 2 aromatic CH), 7.5-7.2 (m, 5, C6H5), 5.06 (t, J=4.7 Hz, 1, OH), 4.98 (d, J=6.2 Hz, 1, OH), 4.75-4.55 (m overlapping d at 4.68, J=3.7 Hz, and s at 4.63, total 4, NCH, OH, and SCH2); mass spectrum(CI): 439 (M+1).

reactant | (±)-(1R*,2S*,3S*,5S*)-3-(acetoxymethyl)-5-(5,6-dichloro-2,3-dihydro-2-thioxo-1H-benzimidazol-1-yl)-1,2-cyclopentanediyl diacetate | 1.05 mmol, 0.50 g | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1N1C(NC2=C1C=C(C(=C2)Cl)Cl)=S)COC(C)=O)OC(C)=O | C19H20Cl2N2O6S
reactant | benzyl bromide | 2.5 mmol, 0.3 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.145 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (±)-(1R*,2S*,3S*,5S*)-5-[2-(Benzylthio)-5,6-dichloro-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol | 300 mg, 65% | C(C1=CC=CC=C1)SC1=NC2=C(N1[C@H]1C[C@H]([C@@H]([C@@H]1O)O)CO)C=C(C(=C2)Cl)Cl | C20H20Cl2N2O3S
